US09108969B2
Step G: Preparation of 2-(7-(3-Cyano-5-(trifluoromethoxy)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
To a solution of tert-butyl 2-(7-(3-cyano-5-(trifluoromethoxy)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (50 mg, 0.103 mmol) and thioanisole (0.121 mL, 1.028 mmol) in dichloromethane (1 mL) was added trifluoroacetic acid (0.305 mL, 4.11 mmol). The solution was stirred at 23° C. for 3 h. The reaction mixture was concentrated. The residue was triturated with hexanes and purified by HPLC to provide the title compound as a white solid (19 mg). LCMS m/z=431.2 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 2.27-2.36 (m, 1H), 2.68 (dd, J=16.6, 8.2 Hz, 1H), 2.87-2.96 (m, 2H), 3.76 (quintet, J=7.5 Hz, 1H), 3.99-4.05 (m, 1H), 4.11-4.17 (m, 1H), 5.11 (s, 2H), 6.13 (s, 1H), 6.86 (dd, J=8.7, 2.4 Hz, 1H), 7.05 (d, J=2.4 Hz, 1H), 7.16 (d, J=8.7 Hz, 1H), 7.43 (s, 1H), 7.57 (s, 1H), 7.68 (s, 1H).

reactant | tert-butyl 2-(7-(3-cyano-5-(trifluoromethoxy)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.103 mmol, 50 mg | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=C(C1)OC(F)(F)F | C26H25F3N2O4
reactant | thioanisole | 1.028 mmol, 0.121 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 4.11 mmol, 0.305 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-(7-(3-Cyano-5-(trifluoromethoxy)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 19 mg | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C(C1)OC(F)(F)F | C22H17F3N2O4
